US08748434B2
b) 5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-ylamine
The title compound was prepared in analogy to example 1, intermediate b, from 5-chloro-pyridazin-4-ylamine (CAS RN 53180-92-0) and 4-fluoro-2-methoxyphenylboronic acid (CAS RN 179899-07-1) and using a gradient of n-heptane:ethyl acetate:methanol (100:0:0 to 0:100:0 to 0:50:50) for the chromatographic purification. Light yellow solid (37%). MS (ESI+): m/z=220.089 ([M+H]+).

reactant | 5-chloro-pyridazin-4-ylamine | ClC=1C(=CN=NC1)N | C4H4ClN3
reactant | 4-fluoro-2-methoxyphenylboronic acid | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
solvent | n-heptane ethyl acetate methanol | CCCCCCC.C(C)(=O)OCC.CO
product | 5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-ylamine | FC1=CC(=C(C=C1)C=1C(=CN=NC1)N)OC | C11H10FN3O
